### PR TITLE
[Merged by Bors] - feat: miscellaneous results about finrank

### PR DESCRIPTION
**Pull request by riccardobrasca**
From `flt-regular`.

---

I also fixed a couple of names.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — COMMENTED** [review]
maintainer merge

File: Mathlib/LinearAlgebra/Dimension/RankNullity.lean [hunk 1]
```diff
@@ -196,4 +196,42 @@ theorem exists_linearIndependent_pair_of_one_lt_finrank [NoZeroSMulDivisors R M]
...
+/-- Rank-nullity theorem using `finrank` and subtraction. -/
+lemma Submodule.finrank_quotient [Module.Finite R M] (N : Submodule R M) :
+    finrank R (M ⧸ N) = finrank R M - finrank R N := by
+  rw [← N.finrank_quotient_add_finrank]
+  omega
+
+/-- Similar to `Submodule.finrank_quotient` but for a module over an `R`-algebra `S`. -/
+lemma Submodule.finrank_quotient' [Module.Finite R M] {S : Type*} [Ring S] [SMul R S] [Module S M]
+    [IsScalarTower R S M] (N : Submodule S M) : finrank R (M ⧸ N) = finrank R M - finrank R N :=
+  (N.restrictScalars R).finrank_quotient
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dimension/RankNullity.lean:215]: Is this second lemma strictly more general than the first?

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Dimension/RankNullity.lean:215]: Yes, I thought it wouldn't work using `rw` because of something not being syntactically equal to something else, but it seems it does. Removing the first version.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
